US08076348B2
A 1.0 ml portion of 1 M hydrochloric acid and 40 mg of 10% palladium-carbon were added to an ethanol 9 ml-THF 3 ml solution of 393 mg N-(diaminomethylene)-9-[2-(benzyloxy)ethyl]-9H-carbazole-2-carboxamide, followed by stirring at room temperature for 3 days under an atmosphere of hydrogen gas. After carrying out celite filtration by adding 1 M sodium hydroxide aqueous solution, the organic solvent was evaporated and the water layer was extracted with chloroform, followed by washing with saturated brine and drying with anhydrous magnesium sulfate. By evaporating the solvent, 140 mg of N-(diaminomethylene)-9-(2-hydroxyethyl)-9H-carbazole-2-carboxamide was obtained.

reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | ethanol | 9 ml | C(C)O | C2H6O
reactant | N-(diaminomethylene)-9-[2-(benzyloxy)ethyl]-9H-carbazole-2-carboxamide | 393 mg | NC(=NC(=O)C1=CC=2N(C3=CC=CC=C3C2C=C1)CCOCC1=CC=CC=C1)N | C23H22N4O2
catalyst | palladium-carbon | 40 mg | [C].[Pd]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(diaminomethylene)-9-(2-hydroxyethyl)-9H-carbazole-2-carboxamide | 140 mg | NC(=NC(=O)C1=CC=2N(C3=CC=CC=C3C2C=C1)CCO)N | C16H16N4O2
